US07067517B2
4-Cyclopropylmethyl-piperazine-1-carboxylic acid 4-(2-cyclohexyl-acetylamino)-phenyl ester
The title compound was prepared from 4-(2-cyclohexyl-acetylamino)-phenyl chloroformate and 1-cyclopropylmethyl-piperazine, preparative HPLC (methode C (60%, off-white crystals). HPLC-MS m/z=400.3 (M+1), Rt: 2.42 min.

reactant | 4-(2-cyclohexyl-acetylamino)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)NC(CC1CCCCC1)=O | C15H18ClNO3
reactant | 1-cyclopropylmethyl-piperazine | C1(CC1)CN1CCNCC1 | C8H16N2
product | 4-Cyclopropylmethyl-piperazine-1-carboxylic acid 4-(2-cyclohexyl-acetylamino)-phenyl ester | C1(CCCCC1)CC(=O)NC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1CC1 | C23H33N3O3
